US07368578B2
A mixture of {1-benzyl-3-[(6-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-pyridinyl)methoxy]-1H-pyrazol-4-yl}methanol (0.50 g), activated manganese dioxide (1.50 g) and tetrahydrofuran (50 mL) was stirred at room temperature for 15 hrs. Manganese dioxide was removed by filtration and the filtrate was concentrated. The obtained crystals were collected by filtration to give 1-benzyl-3-[(6-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-pyridinyl)methoxy]-1H-pyrazole-4-carbaldehyde as colorless crystals (0.42 g, yield 84%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 104-105° C.

reactant | {1-benzyl-3-[(6-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-pyridinyl)methoxy]-1H-pyrazol-4-yl}methanol | 0.50 g | C(C1=CC=CC=C1)N1N=C(C(=C1)CO)OCC=1C=NC(=CC1)OCC=1N=C(OC1C)C=1OC=CC1 | C26H24N4O5
catalyst | manganese dioxide | 1.50 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-benzyl-3-[(6-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-pyridinyl)methoxy]-1H-pyrazole-4-carbaldehyde | 0.42 g, yield 84% | C(C1=CC=CC=C1)N1N=C(C(=C1)C=O)OCC=1C=NC(=CC1)OCC=1N=C(OC1C)C=1OC=CC1 | C26H22N4O5
